US04873244
3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline (0.28 g, 0.8 mmol) was heated to 110° C. for 2 1/4 h in a mixture of 20 ml of dimethylformamide and 1 ml of piperidine. The reaction mixture was then evaporated in vacuo and the residue triturated with 5 ml of water, filtered off and dried to give 0.26 g (81%) 3- (5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl -5-oxo- 6-(1-piperidyl)-4,5-dihydro-imidazo(1,5-a)quinazoline, M.p. 185°-192° C..

reactant | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl-5-oxo-6-chloro-4,5-dihydro-imidazo(1,5-a)quinazoline | 0.8 mmol, 0.28 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)Cl)=O)C | C16H12ClN5O2
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3- (5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-methyl -5-oxo- 6-(1-piperidyl)-4,5-dihydro-imidazo(1,5-a)quinazoline | 0.26 g, 81% | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N(C(C1=C(C=CC=C21)N2CCCCC2)=O)C | C21H22N6O2
